US07316999B2
Nα-tert-Butyloxycarbonyl-lysine was reacted with 2-formylphenylboronic acid in methanol-triethylamine and subsequently treated with sodium borohydride (Wiskur et al, Org. Letters 2001, 3, 1311). The resulting secondary amine was transformed to the methyl ester by treament with methanol and trimethylsilyl chloride, 10:1, to give Nε-(2-boronobenzyl), methyl lysinate, dihydrochloride.

reactant | Nα-tert-Butyloxycarbonyl-lysine | C(C)(C)(C)OC(=O)N[C@@H](CCCCN)C(=O)O | C11H22N2O4
reactant | 2-formylphenylboronic acid | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
solvent | methanol triethylamine | CO.C(C)N(CC)CC
solvent | methanol | CO | CH4O
product | methyl lysinate, dihydrochloride | Cl.Cl.N[C@@H](CCCCN)C(=O)OC | InChI=1S/C7H16N2O2.2ClH/c1-11-7(10)6(9)4-2-3-5-8;;/h6H,2-5,8-9H2,1H3;2*1H/t6-;;/m0../s1
